US09447074B2
Intermediate 15: 1,1-dimethylethyl 7-(5-fluoro-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate
To a degassed mixture 2-{[(2-bromo-4-fluorophenyl)oxy]methyl}-4-methylpyridine (0.09 g), 1,1-dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate (0.131 g) (for preparation see WO 2007/056710) and caesium carbonate (0.296 g) in dioxane:water (4:1, 5 ml) was added PdCl2.dppf (0.025 g). The reaction mixture was heated at 120° C. overnight. The reaction mixture was added to water and extraction was carried out with ethyl acetate. The organic layer was dried over sodium sulphate and the filtrate was concentrated in vacuo. The crude product was purified through silica, eluting with 0-12% ethyl acetate in hexane. Appropriate fractions were concentrated in vacuo to yield the title compound, 0.169 g, quantitative yield.

reactant | 2-{[(2-bromo-4-fluorophenyl)oxy]methyl}-4-methylpyridine | 0.09 g | BrC1=C(C=CC(=C1)F)OCC1=NC=CC(=C1)C | C13H11BrFNO
reactant | 1,1-dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 0.131 g | CC1(OB(OC1(C)C)C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)C | C20H30BNO4
reactant | caesium carbonate | 0.296 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dioxane water | 5 ml | O1CCOCC1.O
catalyst | PdCl2 | Cl[Pd]Cl
catalyst | dppf | 0.025 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl 7-(5-fluoro-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate | quantitative yield | FC=1C=CC(=C(C1)C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)OCC1=NC=CC(=C1)C | C27H29FN2O3
